US06221865B1
4-(3-Aminomethylpyridyl)-2-phenylbenzoylmethionine methyl ester
A mixture of 3-pyridinecarboxaldehyde (1.0 equivalent), 4-amino-2-phenylbenzoyl methionine methyl ester (1.0 equivalent) and NaCNBH3 (1.0 equivalent) in methanol/acetic acid is stirred until the reaction is judged complete by TLC analysis. The mixture is poured into aqueous NaHCO3 and extracted into ethyl acetate which is dried and evaporated. Chromatography of the residue on silica gel affords the title compound.

reactant | 3-pyridinecarboxaldehyde | 1.0 equivalent | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 4-amino-2-phenylbenzoyl methionine methyl ester | 1.0 equivalent | COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | C19H22N2O3S
reactant | NaCNBH3 | 1.0 equivalent | [BH3-]C#N.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol acetic acid | CO.C(C)(=O)O
product | 4-(3-Aminomethylpyridyl)-2-phenylbenzoylmethionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C1=NC=CC=C1CN)C1=CC=CC=C1)=O)CCSC)=O | C25H27N3O3S
